US07795249B2
A mixture of 2-phenyl-5-(trifluoromethyl)-1H-imidazole (47.1 mmol) and NaOH (63.8 mmol) in water (20 mL) was allowed to stir at 95° C. overnight. The reaction mixture was allowed to cool to rt and was diluted with water and extracted with DCM. The pH of the aqueous solution was adjusted to pH=7 with 1N HCl and the solution was extracted again with DCM. The aqueous solution was concentrated to give 2-phenyl-1H-imidazole-5-carboxylic acid as a white solid which was used without further purification.

reactant | 2-phenyl-5-(trifluoromethyl)-1H-imidazole | 47.1 mmol | C1(=CC=CC=C1)C=1NC(=CN1)C(F)(F)F | C10H7F3N2
reactant | NaOH | 63.8 mmol | [OH-].[Na+]
reactant | water | 20 mL | O | H2O
product | 2-phenyl-1H-imidazole-5-carboxylic acid | C1(=CC=CC=C1)C=1NC(=CN1)C(=O)O | C10H8N2O2
